US08008303B2
2′-Methyl-5′-(4-morpholin-4-yl-benzoylamino)-biphenyl-4-carboxylic acid
2′-Methyl-5′-(4-morpholin-4-yl-benzoylamino)-biphenyl-4-carboxylic acid ethyl ester (2.4 g) was stirred in a mixture of THF (25 ml) and 1M sodium hydroxide (50 ml) at 10° C. for 4 h. The mixture was allowed to cool and the THF was evaporated. The residue was acidified and the resultant colourless precipitate collected by filtration and dried (1.98 g).

reactant | 2′-Methyl-5′-(4-morpholin-4-yl-benzoylamino)-biphenyl-4-carboxylic acid ethyl ester | 2.4 g | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(C1=CC=C(C=C1)N1CCOCC1)=O)C | C27H28N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1M, 50 ml | [OH-].[Na+]
product | 2′-Methyl-5′-(4-morpholin-4-yl-benzoylamino)-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1CCOCC1)=O)C1=CC=C(C=C1)C(=O)O | C25H24N2O4
